US09278915B2
Intermediate 1: [3-(Bromomethyl)phenyl](phenyl)methanone
To a 1000 mL RB flask fitted with magnetic stirrer, was charged with 375 mL of CCl4. The solvent was cooled to 0° C. and to the stirred solvent was added phenyl-m-tolyl-methanone (15.0 g, 76.45 mmol) followed by the addition of bromine (24.43 g, 152.9 mmol) at 0° C. and the mixture was allowed to stir at the same temperature for 30 minutes. The resulting solution was refluxed at 80° C. for 24 h. After completion of the reaction (reaction monitored by TLC), RM was cooled to 10° C. and quenched with the addition of solid sodium bicarbonate (15 g, 178.57 mmol). The organic layer was washed with saturated sodium bicarbonate solution (300 mL×2) and saturated brine solution (300 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure to get the product as a white solid (6.8 g, Yield: 32.3%): 1H NMR (300 MHz, CDCl3): δ 7.74-7.76 (m, 2H), 7.71-7.72 (t, 2H), 7.51-7.67 (m, 2H), 7.40-7.45 (m, 3H), 4.46 (s, 2H).

reactant | phenyl-m-tolyl-methanone | 76.45 mmol, 15.0 g | C1(=CC=CC=C1)C(=O)C=1C=C(C=CC1)C | C14H12O
reactant | bromine | 152.9 mmol, 24.43 g | BrBr | Br2
reactant | sodium bicarbonate | 178.57 mmol, 15 g | C([O-])(O)=O.[Na+]
solvent | CCl4 | 375 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | [3-(Bromomethyl)phenyl](phenyl)methanone | 6.8 g, Yield: 32.3% | BrCC=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C14H11BrO
